US05173496
A suspension of 2-(2-benzylhydrazino)-5-chlorobenzoic acid (2.5 g) in acetic acid (20 ml) was heated under reflux for 30 minutes. The solution was then cooled and diluted with ether. The solid which formed was recrystallised from ethanol to give 1,2-dihydro-2-benzyl-5-chloro-3H-indazol-3-one as a solid (1.6 g), m.p. 215-225° C. (dec.).

reactant | 2-(2-benzylhydrazino)-5-chlorobenzoic acid | 2.5 g | C(C1=CC=CC=C1)NNC1=C(C(=O)O)C=C(C=C1)Cl | C14H13ClN2O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 1,2-dihydro-2-benzyl-5-chloro-3H-indazol-3-one | 1.6 g | C(C1=CC=CC=C1)N1NC2=CC=C(C=C2C1=O)Cl | C14H11ClN2O
